US08293768B2
Synthesis of 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(oxazol-2-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 21, making variations as required to replace 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid with 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid to react with oxazol-2-ylmethanamine hydrochloride, the title compound was obtained as a white solid in 57% yield: mp 152-153° C. (ethyl acetate/hexane); 1H NMR (300 MHz, CDCl3) δ 8.26 (s, 1H), 7.65 (s, 1H), 7.41-7.32 (m, 2H), 7.09 (s, 1H), 7.07-6.98 (m, 2H), 6.54 (t, J=5.2 Hz, 1H), 4.98 (s, 2H), 4.73 (d, J=5.2 Hz, 2H), 2.67 (s, 3H); MS (ES+) m/z 415.1 (M+1).

reactant | 4-methyl-2-(5-oxo-1-(4-(trifluoromethyl)benzyl)-1H-1,2,4-triazol-4(5H)-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C=NN(C1=O)CC1=CC=C(C=C1)C(F)(F)F | C15H11F3N4O3S
reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | oxazol-2-ylmethanamine hydrochloride | Cl.O1C(=NC=C1)CN
product | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-N-(oxazol-2-ylmethyl)thiazole-5-carboxamide | 57% yield | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)NCC=2OC=CN2)C=C1 | C18H15FN6O3S
